US04529732
A. N-Ethoxycarbonyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol
Using the procedure of Example 4, 423 mg (0.878 mmole) of N-ethoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol and 210 mg of 5% palladium on carbon (50% wet) provides 265 mg (77%) of the title compound as an oil.

reactant | N-ethoxycarbonyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 0.878 mmole, 423 mg | C(C)OC(=O)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H43NO4
catalyst | palladium on carbon | 210 mg | [Pd] | Pd
product | N-Ethoxycarbonyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 265 mg, 77% | C(C)OC(=O)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C23H37NO4
